US06624176B2
c) N-(4-Iodo-6-morpholin-4-yl-pyridin-3-yl)-2,2-dimethyl-propionamide
A solution of 28.4 g (108 mmol) 2,2-dimethyl-N-(6-morpholin-4-yl-pyridin-3-yl)-propionamide and 49 ml (324 mmol) N,N,′,N′-tetramethylethylenediamine under argon in 600 ml tetrahydrofuran was cooled in a dry ice bath to −78° C. Within 1 h, 202 ml (324 mmol) of a 1.6 N n-butyllithium solution in hexane were added dropwise. The reaction mixture was allowed to warm up to −35° C. overnight. After cooling again to −78° C., 37 g (146 mmol) iodine dissolved in 60 ml tetrahydrofuran were added dropwise during 15 min. The dry ice bath was replaced by an ice bath and a solution of 90 g (363 mmol) sodium thiosulfate pentahydrate in 250 ml water were added within 10 min when the temperature of the reaction mixture had reached 0° C. Then, 1000 ml diethyl ether were added and the organic layer was separated. The aqueous layer was extracted twice with 500 ml dichloromethane and the combined organic layers were dried (magnesium sulfate) and evaporated. Flash chromatography gave 15.6 g (37%) of the title compound as a light brown oil which crystallized upon standing at room temperature. MS m/e (%): 389 (M+, 71), 358 (25), 304 (43), 57 (100).

reactant | 2,2-dimethyl-N-(6-morpholin-4-yl-pyridin-3-yl)-propionamide | 108 mmol, 28.4 g | CC(C(=O)NC=1C=NC(=CC1)N1CCOCC1)(C)C | C14H21N3O2
reactant | n-butyllithium | 1.6 N | C(CCC)[Li]
reactant | iodine | 146 mmol, 37 g | II | I2
reactant | dry ice | C(=O)=O | CO2
reactant | sodium thiosulfate pentahydrate | 363 mmol, 90 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
product | N-(4-Iodo-6-morpholin-4-yl-pyridin-3-yl)-2,2-dimethyl-propionamide | 15.6 g, 37% | IC1=C(C=NC(=C1)N1CCOCC1)NC(C(C)(C)C)=O | C14H20IN3O2
